US06235731B1
1) Synthesis of N-[1-(3-(2-fluorophenyl)propan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
Under nitrogen gas, 0.38 ml (4.90 mM) of methanesulfonyl chloride was added to a solution of 499 mg (3.24 mM) of 2-fluorophenylpropanol and 0.90 ml (6.47 mM) of triethylamine in methylene chloride (6 ml) at 0° C. and the mixture was stirred at the prevailing temperature for 20 minutes. The reaction was stopped by adding saturated aqueous solution of sodium hydrogen carbonate. The reaction mixture was then extracted with diethyl ether. The organic layer was washed with water and saturated aqueous solution of sodium chloride and dried over MgSO4. The solvent was then distilled off under reduced pressure to provide 0.722 g (3.24 mM) of 2-fluorophenylpropyl mesylate. To a solution of 0.58 g (1.5 mM) of N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride and 1.0 ml (7.2 mM) of triethylamine in ethanol was added 0.60 g (2.69 mM) of 2-fluorophenylpropyl mesylate at room temperature, and the mixture was refluxed under nitrogen for 16 hours. The solvent was then distilled off under reduced pressure and the residue was diluted with water and extracted with chloroform. The organic -layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4. The resulting crude product was purified by column chromatography (methanol/ethyl acetate 20-50%) to provide the title compound.

reactant | N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 1.5 mM, 0.58 g | Cl.Cl.N1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 7.2 mM, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | 2-fluorophenylpropyl mesylate | 2.69 mM, 0.60 g | S(C)(=O)(=O)OCCCC1=C(C=CC=C1)F | C10H13FO3S
solvent | ethanol | C(C)O | C2H6O
product | N-[1-(3-(2-fluorophenyl)propan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | FC1=C(C=CC=C1)CCCN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H27FN4OS
